US08222281B2
(64A) 4-Cyclopropylindan-1-one
To a toluene (6.0 mL) solution of 4-bromoindan-1-one (300 mg, 1.42 mmol), water (0.30 mL), cyclopropyl borate (158 mg, 1.85 mmol), potassium phosphate (1.05 g, 4.97 mmol), tricyclohexylphosphine (a 0.48 M toluene solution, 0.295 mL, 0.142 mmol), and palladium acetate (16 mg, 0.071 mmol) were sequentially added, and the resulting mixture was stirred under a nitrogen atmosphere at 100° C. for 4 hours. After the reaction solution was cooled to room temperature, water was added thereto, and the organic matter was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution, then dried over anhydrous sodium sulfate and filtered. Then, the solvent was distilled off under reduced pressure, whereby a crude product was obtained. This crude product was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 80:20 (v/v)), whereby the objective title compound was obtained as a light yellow solid (211 mg, yield: 86%).

reactant | 4-bromoindan-1-one | 1.42 mmol, 300 mg | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | cyclopropyl borate | 1.85 mmol, 158 mg | B(OC1CC1)([O-])[O-]
reactant | potassium phosphate | 4.97 mmol, 1.05 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium acetate | 0.071 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | 0.48 M | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.30 mL | O | H2O
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
product | (64A) 4-Cyclopropylindan-1-one | 211 mg, yield: 86% | C1CC1C2=CC=CC3=C2CCC3=O | C12H12O
